US08217032B2
[2-(2,6-Difluoro-phenyl)-6-hydroxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Dissolve [2-(2,6-difluorophenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-ylethoxy)-phenyl]-methanone (1.5 gm., 3.0 mmoles) in 500 ml methylene chloride and chill in ice. To this solution add boron tribromide (6.0 ml, 63 mmoles) in portions with swirling between additions. Allow to come to room temp. and stir for one hour. Pour into a two-phase system consisting of an organic layer of 3/1 chloroform/isopropanol and an aqueous layer of saturated sodium bicarbonate. Separate the phases and dry the organic layer using 3A molecular sieves. Purify on a silica column eluting with a 0-10% methanol/methylene chloride gradient. The yield of pure product is 600 mg (44%): 1H-NMR (CD3OD, 400 MHz) δ7.87 (d, J=8.0 Hz, 1H); 7.56 (d, J=8.4 Hz, 2H); 7.49 (d, J=9.2 Hz, 1H); 7.33 (d, j=8.8 Hz, 1H); 7.27-7.25 (m, 1H); 7.23-7.21 (m, 1H); 7.06 (dd, J=8.8, 2.4 Hz, 1H); 6.86-6.79 (m, 4H); 4.14 (t, J=5.6 Hz, 2H); 2.76 (t, J=5.6 Hz, 2H); 2.53-2.53 (m, 4H); 1.65-1.59 (m, 4H); 1.50-1.46 (m, 2H).

reactant | [2-(2,6-difluorophenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-ylethoxy)-phenyl]-methanone | 3.0 mmoles, 1.5 gm | FC1=C(C(=CC=C1)F)C1=C(C2=CC=C(C=C2C=C1)OC)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C31H29F2NO3
reactant | boron tribromide | 63 mmoles, 6.0 ml | B(Br)(Br)Br | BBr3
reactant | chloroform isopropanol | C(Cl)(Cl)Cl.C(C)(C)O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | [2-(2,6-Difluoro-phenyl)-6-hydroxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | FC1=C(C(=CC=C1)F)C1=C(C2=CC=C(C=C2C=C1)O)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H27F2NO3
